* Frozen netlist snapshot for record 20260905-200820-3093ea1
* This is a verbatim copy taken at record time. Do not edit.

* ======================================================================
* DUT netlist          : design/netlist/ldo_core.spice
* sha256               : f32ebdd07be2b8591400734cad5c700055e8d3f4033283ea78b3ce0c194d41e0
* ======================================================================
* ldo_core -- generated by design/netlist.py from design/ldo_core.sch
* Do not edit: edit the schematic and re-run the export.
** sch_path: design/ldo_core.sch
.subckt ldo_core VIN VOUT EN VSS ERRAMP_OUT PASS_GATE VREF
*.PININFO VIN:B VOUT:B EN:I VSS:B ERRAMP_OUT:O PASS_GATE:I VREF:I
XMpass VOUT PASS_GATE VIN VIN pfet_03v3 L=0.28u W=2000u nf=40 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen PASS_GATE EN VIN VIN pfet_03v3 L=0.28u W=50u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
Rtop VOUT FB 300k m=1
XCff VOUT FB cap_mim_2f0_m2m3_noshield c_width=87u c_length=87u m=1
Rbot FB VSS 600k m=1
Xerramp FB VREF ERRAMP_OUT VIN VSS EN BG error_amp
Xilimit VIN VOUT PASS_GATE EN VREF VSS BG ldo_ilimit
Xsoftstart VIN FB PASS_GATE EN VREF VSS BG ldo_softstart
.ends

* expanding   symbol:  error_amp.sym # of pins=7
** sym_path: design/error_amp.sym
** sch_path: design/error_amp.sch
.subckt error_amp INP INN OUT VDD VSS EN BG
*.PININFO INP:I INN:I OUT:O VDD:B VSS:B EN:I BG:B
XRbias NBIAS RBT VSS ppolyf_u_1k r_width=1u r_length=1000u m=1
XMB1 NBIAS NBIAS VSS VSS nfet_03v3 L=4u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMTAIL TAIL NBIAS VSS VSS nfet_03v3 L=4u W=6.6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIN1 ND INN TAIL VSS nfet_03v3 L=6u W=60u nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIN2 N1 INP TAIL VSS nfet_03v3 L=6u W=60u nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMLD1 ND ND VDD VDD pfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMLD2 N1 ND VDD VDD pfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRz NZ N1 VSS ppolyf_u_1k r_width=1u r_length=6000u m=1
XCc NZ OUT cap_mim_2f0_m2m3_noshield c_width=48u c_length=48u m=1
XMrza N1 BG NRZA N1 pfet_03v3 L=9u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRza NZ NRZA VSS ppolyf_u_1k r_width=1u r_length=600u m=1
XCf1 N1 NF cap_mim_2f0_m2m3_noshield c_width=7u c_length=7u m=1
XCf2 NF BG cap_mim_2f0_m2m3_noshield c_width=7u c_length=7u m=1
XM2P BG N1 VDD VDD pfet_03v3 L=1u W=60u nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2N BG NBIAS VSS VSS nfet_03v3 L=4u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRbufb NBP N1 VSS ppolyf_u_1k r_width=1u r_length=5000u m=1
XMbufb OUT NBP VDD VDD pfet_03v3 L=1u W=100u nf=10 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMbuf OUT BG VSS OUT pfet_03v3 L=0.5u W=60u nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMpgn OUT NBIAS VSS VSS nfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMbg_pu BG EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_p ENB EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_n ENB EN VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMbias_h RBT ENB VDD VDD pfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnb_pd NBIAS ENB VSS VSS nfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMn1_pu N1 EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnd_pu ND EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  ldo_ilimit.sym # of pins=7
** sym_path: design/ldo_ilimit.sym
** sch_path: design/ldo_ilimit.sch
.subckt ldo_ilimit VIN VOUT PASS_GATE EN VREF VSS BG
*.PININFO VIN:B VOUT:B PASS_GATE:B EN:I VREF:I VSS:B BG:B
XMsense ISNS PASS_GATE VIN VIN pfet_03v3 L=0.28u W=50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRsns VOUT ISNS VSS ppolyf_u r_width=5u r_length=7.6u m=10
XMpd PB PB VIN VIN pfet_03v3 L=2u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMrefp VTH PB VIN VIN pfet_03v3 L=2u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRref VOUT VTH VSS ppolyf_u_3k r_width=1u r_length=30u m=1
Fbias PB VSS Vbsense 1
Vbsense VREF BT 0
XRbias BB BT VSS ppolyf_u_3k r_width=1u r_length=360u m=1
XMben BB EN VSS VSS nfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMca CN ISNS TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMcb CO VTH TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRtail TAIL TAILP VSS ppolyf_u_3k r_width=1u r_length=150u m=1
XMna CN CN VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnb CO CN VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen_co CO ENB VSS VSS nfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCc CO VSS cap_mim_2f0_m2m3_noshield c_width=25u c_length=20u m=1
XMg2 CLG CO VSS VSS nfet_03v3 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRl2 CLG VIN VSS ppolyf_u_3k r_width=1u r_length=150u m=1
XMcoff CLG EN VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMclamp PASS_GATE CLG VIN VIN pfet_03v3 L=0.5u W=50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMclamp_bg BG CLG VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_p ENB EN VIN VIN pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_n ENB EN VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen_t TAILP ENB VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  ldo_softstart.sym # of pins=7
** sym_path: design/ldo_softstart.sym
** sch_path: design/ldo_softstart.sch
.subckt ldo_softstart VIN FB PASS_GATE EN VREF VSS BG
*.PININFO VIN:B FB:I PASS_GATE:B EN:I VREF:I VSS:B BG:B
Vbsense_ss VREF BT 0
XRss_bias BB BT VSS ppolyf_u_3k r_width=1u r_length=1000u m=1
XMben_ss BB EN VSS VSS nfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
Fss_ramp VIN SSR Vbsense_ss 0.0060
XCss SSR VSS cap_mim_2f0_m2m3_noshield c_width=60u c_length=60u m=1
XMdis_ss SSR ENB VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMtop_ss VSS VREF SSR VIN pfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen_t_ss TAILP ENB VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRtail_ss TAIL TAILP VSS ppolyf_u_3k r_width=1u r_length=600u m=1
XMca_ss CN FB TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMcb_ss CO SSR TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMna_ss CN CN VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnb_ss CO CO VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCc_ss CO VSS cap_mim_2f0_m2m3_noshield c_width=25u c_length=20u m=1
XMen_l LP ENB VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRl2_ss CLG LP VSS ppolyf_u_3k r_width=1u r_length=2000u m=1
XMg2_ss CLG CO VSS VSS nfet_03v3 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMpark_ss CLG ENB VSS VSS nfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMclamp_ss PASS_GATE CLG VIN VIN pfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCm_ss CLG PASS_GATE cap_mim_2f0_m2m3_noshield c_width=60u c_length=60u m=1
XMinv_p ENB EN VIN VIN pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMclamp_bg_ss BG CLG VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_n ENB EN VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

* ======================================================================
* testbench fragment   : sim/psrr-vs-freq-50ma/testbench/tb_psrr_50ma.spice
* sha256               : 5b6eabf76e8fef974fd57b85b291b60d99d7902a31a84a40833649cddf9c281a
* ======================================================================
* psrr-vs-freq-50ma -- stimulus fragment for ldo_core (issue #99)
*
* The full-load (50 mA) half of the ratified PSRR row. Same topology, same
* stimulus and same output network as sim/psrr-vs-freq/testbench/tb_psrr.spice
* -- the ONLY circuit difference is the commanded load current (Vilc: 50 mA
* here, 1 mA there).
*
* PSRR vs frequency (README.md Target specification, "PSRR" row; DR-0004
* amendment A7): >50dB @ 1kHz and >20dB @ 100kHz, C_eff=1uF nominal. A small
* -signal AC source rides on Vin (Vsup ... AC 1); PSRR(f) = -Vout(f)/Vin(f)
* in dB = -vdb(vout) since the 1V AC stimulus is 0dB.
*
* Why a second experiment slug instead of a second load point inside
* tb_psrr.spice: the harness runs one manifest per slug and the two DC bias
* points cannot share one deck. Combining them via ngspice's "alter" between
* two .ac runs was tried and rejected in #12/#46 -- ngspice's per-.meas result
* vectors (and any "let" derived from them) go out of scope as soon as a later
* analysis becomes the current plot, so the second .ac silently re-reports the
* first .ac's captured values instead of erroring. A sibling slug (the pattern
* sim/dropout-vs-load/ already uses for its own single fixed load point) keeps
* each load condition on its own deck, its own full PVT sweep, its own checks
* and its own record with its own separate verdict -- which is what the
* ratified row's two load conditions need.
Vsup VIN 0 DC {vdd_val} AC 1
* --- Reference (issue #174 / DR-0021) ------------------------------------
* VREF is a TOP-LEVEL PORT of ldo_core as of #174; it used to be an internal
* net driven by Vref1, an ideal 1.2 V vsource instantiated INSIDE the
* subcircuit. That source is deleted from design/ldo_core.sch and reappears
* here, unchanged, at deck level. This is an electrical no-op by
* construction: an ideal vsource is an ideal vsource wherever it is
* declared, its return was already the cell's VSS port (node 0 here), and it
* is an AC short to ground in both placements -- so DC operating points, .ac
* transfers and transients are all identical to the pre-#174 deck. The point
* of the move is that the idealization is now visible at the interface and a
* real reference (a bandgap block, or the Chipalooza Challenge #5 harness's
* bandgap-referenced bias-voltage slot) can drive it without editing the
* schematic. One source serves every DUT instance in this deck: an ideal
* source has zero output impedance, so instances cannot interact through it.
Vref VREF 0 DC 1.2

Xdut VIN VOUT VIN 0 LOOP LOOP VREF ldo_core

* --- Compliance-limited load sink (#46) --------------------------------
* Vilc carries the COMMANDED load current as a number of volts (1 V == 1 A).
* It is a control node only and conducts no circuit current. Bload draws
* that current out of VOUT through the 0 V ammeter Vlmeas, scaled by a
* compliance factor that is 1 for VOUT well above ground and 0 at or below
* it:
*     f(VOUT) = 0.5 * (1 + tanh((VOUT - 0.2) / 0.05))
* At VOUT >= 1.0 V, 1 - f < 1.3e-14, so the DC sink is ideal to well past
* double precision; and -- what matters for an AC measurement -- the
* small-signal conductance the sink presents at the operating point is
* df/dVOUT * v(ilc) < 2.6e-14 S at 50 mA (and ~3e-28 S at the ~1.8 V this
* design actually regulates to), i.e. an open circuit at AC exactly like the
* ideal sink it replaces. dc_vout_v / dc_iload_ma below read the .op plot
* directly so both properties are checked at every corner instead of
* assumed.
*
* The "op" entry in tb.json's analyses list exists for that reporting, not
* to steer the .ac: ngspice's ac command solves its own operating point.
*
* What the bound removes is the *unphysical* branch of an ideal sink. An
* ideal sink demands its current at any terminal voltage, including tens of
* volts BELOW ground, where the only thing that can supply it is
* forward-biased substrate junctions inside the PDK device models. That is
* a genuine second solution for the operating point this .ac linearizes
* around, not a convergence failure, and a cold Newton-Raphson start reached
* it at most PVT points before #46 bounded the sink (#40, #46) -- which made
* the small-signal PSRR that followed meaningless. That risk is strictly
* larger at 50 mA than at 1 mA (a bigger demanded current biases the
* unphysical root harder), which is why dc_vout_v / dc_iload_ma are gated at
* every corner here too. See sim/harness/README.md, "Compliance-limited load
* sinks".
Vilc ILC 0 DC 50m
Bload VOUT NLOAD I = 'v(ilc) * 0.5 * (1 + tanh((v(vout) - 0.2) / 0.05))'
Vlmeas NLOAD 0 DC 0

Resr VOUT n_esr 0.1
Cout n_esr 0 1u
